US07183311B2
2-Acetylamino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide
Acetyl chloride (0.039 g, 0.5 mmol) was added dropwise to a stirred solution of 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide(0.115 g, 0.5 mmol) in dry pyridine (3 mL) at room temperature. The resulting reaction mixture was stirred under nitrogen for 2 h. Ethyl ether (20 mL) was then added to the reaction mixture. The reaction mixture was allowed to stir an additional 10 minutes. The reaction mixture was then filtered, washed with excess ethyl ether, air dried to give the title compound as light brown solid (0.082 g, 0.435 mmol, 60.3% yield). ESMS m/z: 273 [M+H]+.

reactant | Acetyl chloride | 0.5 mmol, 0.039 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide | 0.5 mmol, 0.115 g | NC1=C(C2=C(S1)C1=CC=CC=C1C2)C(=O)N | C12H10N2OS
reactant | Ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-Acetylamino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide | 0.435 mmol, 0.082 g, 60.3% yield | C(C)(=O)NC1=C(C2=C(S1)C1=CC=CC=C1C2)C(=O)N | C14H12N2O2S
